US07964724B2
2-[1,4]Diazepan-1-yl-N,N-dimethyl-acetamide dihydrochloride:
prepared from [1,4]diazepane-1-carboxylic acid tert-butyl ester, chloroacetylchloride and dimethylamine in an analogous manner as described in example 15.

reactant | [1,4]diazepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCNCCC1 | C10H20N2O2
reactant | chloroacetylchloride | ClCC(=O)Cl | C2H2Cl2O
reactant | dimethylamine | CNC | C2H7N
product | 2-[1,4]Diazepan-1-yl-N,N-dimethyl-acetamide dihydrochloride | Cl.Cl.N1(CCNCCC1)CC(=O)N(C)C | InChI=1S/C9H19N3O.2ClH/c1-11(2)9(13)8-12-6-3-4-10-5-7-12;;/h10H,3-8H2,1-2H3;2*1H
